US07615661B2
Structure II: 2-Allylsulfanyl-2-methyl-propionic acid ethyl ester
Ethyl 2-bromoisobutyrate (40.0 g, 0.205 mole), allyl mercaptan (16.8 g, 0.0226 mole), potassium hydroxide (14.4 g, 0.226 mole), ethyl alcohol (100 g) were combined and reaction mixture was refluxed for six hours prior to quenching. Crude yield: 79.3%; Distilled yield: 35.0%.

reactant | Ethyl 2-bromoisobutyrate | 0.205 mole, 40.0 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | allyl mercaptan | 0.0226 mole, 16.8 g | C(C=C)S | C3H6S
reactant | potassium hydroxide | 0.226 mole, 14.4 g | [OH-].[K+]
solvent | ethyl alcohol | 100 g | C(C)O | C2H6O
product | 2-Allylsulfanyl-2-methyl-propionic acid ethyl ester | yield: 35.0% | C(C)OC(C(C)(C)SCC=C)=O | C9H16O2S
